US07807708B2
In a manner similar to that of Example 18a, by reacting 40 g of 4-bromo-2-trifluoromethylphenylamine (0.167 mol) with 16.6 g of sodium hydride (0.42 mol) and 49.7 mL of 1,4-dibromobutane (0.42 mol), 8.5 g of 1-(4-bromo-2-trifluoromethylphenyl)pyrrolidine (yield=17%) are obtained in the form of a yellow oil.

reactant | 4-bromo-2-trifluoromethylphenylamine | 0.167 mol, 40 g | BrC1=CC(=C(C=C1)N)C(F)(F)F | C7H5BrF3N
reactant | sodium hydride | 0.42 mol, 16.6 g | [H-].[Na+]
reactant | 1,4-dibromobutane | 0.42 mol, 49.7 mL | BrCCCCBr | C4H8Br2
product | 1-(4-bromo-2-trifluoromethylphenyl)pyrrolidine | 8.5 g, yield=17% | BrC1=CC(=C(C=C1)N1CCCC1)C(F)(F)F | C11H11BrF3N
